US07943609B2
A solution of ethyl 3-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butanoate (8.22 g, 24.8 mmol) in 7 N ammonia in methanol (140 mL) was stirred overnight at room temperature. The volatiles were removed under reduced pressure, and the residue was further dried under high vacuum and purified by automated flash chromatography (eluting with a gradient of dichloromethane/methanol/concentrated ammonium hydroxide in a gradient from 100:0:0 to 50:47.5:2.5) to provide 12-methyl-8,9,11,12-tetrahydro-10H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-10-one as an orange solid. Automated flash chromatography was carried out using a combination of a COMBIFLASH system (an automated high-performance flash purification product available from Teledyne Isco, Inc., Lincoln, Nebr., USA) and a HORIZON HPFC system (an automated high-performance flash purification product available from Biotage, Inc, Charlottesville, Va., USA).

reactant | ethyl 3-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butanoate | 24.8 mmol, 8.22 g | ClCC=1N(C2=C(C=NC=3C=CC=CC23)N1)C(CC(=O)OCC)C | C17H18ClN3O2
reactant | ammonia | 7 N | N | H3N
solvent | methanol | 140 mL | CO | CH4O
product | 12-methyl-8,9,11,12-tetrahydro-10H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-10-one | CC1CC(NCC=2N1C1=C(C=NC3=CC=CC=C13)N2)=O | C15H14N4O
